US08124766B2
A mixture of 4,5-dichloro-1-ethyl-1H-indole-2-carboxylic acid (440 mg, 1.71 mmol), CH2Cl2 (10 mL), and a catalytic amount of DMF was stirred under Ar, and oxalyl chloride (2M in methylene chloride, 2.0 mL, 4.0 mmol) was added into the mixture over 5 min. The mixture was stirred at room temperature for 1.0 hr and the reaction was concentrated to dryness. Benzene was added and the solution was evaporated to dryness again. The white-yellow solid was re-dissolved in 5 mL of methylene chloride and dripped, under Ar, into a solution of 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (475 mg, 1.71 mmol), and triethylamine (204 mg, 2.0 mmol) in 5 mL of methylene chloride. The mixture was first stirred at room temperature for 0.5 hr then concentrated and the residue was taken up in 50 mL of ethyl acetate and washed with 50 mL of saturated ammonium chloride, brine and dried with anhydrous sodium sulfate. The solvent was removed and the crude product was purified by flash chromatography (hexanes/EtOAc), to afford the desired 4-{4-[(4,5-dichloro-1-ethyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester, as an off white solid (750 mg, 85% yield). LCMS for C26H30Cl2N4O3 calcd. (m/e) 516, observed 517 (M+H).

reactant | 4,5-dichloro-1-ethyl-1H-indole-2-carboxylic acid | 1.71 mmol, 440 mg | ClC1=C2C=C(N(C2=CC=C1Cl)CC)C(=O)O | C11H9Cl2NO2
reactant | oxalyl chloride | 4.0 mmol, 2M, 2.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-amino-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.71 mmol, 475 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)N | C15H23N3O2
reactant | triethylamine | 2.0 mmol, 204 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-{4-[(4,5-dichloro-1-ethyl-1H-indole-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N(C2=CC=C(C(=C2C1)Cl)Cl)CC | C26H30Cl2N4O3
